US07691877B2
(3-Cyano-benzyl )-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 68 using potassium carbonate (1.50 g), (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (2.0 g) in acetone (40 ml), 3-chloromethyl-benzonitrile (0.82 g) and sodium iodide (0.98 g). This gave the product (2.62 g) as a yellow oil.

reactant | potassium carbonate | 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 2.0 g | C(C)OC(NC1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C8H7Br2N3O4
reactant | 3-chloromethyl-benzonitrile | 0.82 g | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
reactant | sodium iodide | 0.98 g | [I-].[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (3-Cyano-benzyl )-(2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | C(C)OC(N(C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])CC1=CC(=CC=C1)C#N)=O | C16H12Br2N4O4
